US06162803
4-(5-Fluoro-1H-3-indolyl)-cyclohex-3-en-one ethylene ketal
5-Fluoroindole (5.4 g, 0.04 mol), 1,4-cyclohexanedione monoethylene ketal (12.5 g, 0.08 mol) were placed in 60 ml of 2N potassium hydroxide methanolic solution. The reaction mixture were heated to reflux for 4 hours. The reaction was cooled and the product was isolated by filtration and washed with methanol to give 10.1 g (93%) of product as a white solid: mp 153-155° C.

reactant | 5-Fluoroindole | 0.04 mol, 5.4 g | FC=1C=C2C=CNC2=CC1 | C8H6FN
reactant | 1,4-cyclohexanedione monoethylene ketal | 0.08 mol, 12.5 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
solvent | potassium hydroxide | 2N, 60 ml | [OH-].[K+]
product | 4-(5-Fluoro-1H-3-indolyl)-cyclohex-3-en-one ethylene ketal | 10.1 g, 93% | C1COC2(CC=C(CC2)C2=CNC3=CC=C(C=C23)F)O1 | C16H16FNO2
